US07981918B2
4,5,6,7-Tetrahydro-1H-indazol-7-ylamine
Combine 1H-indazol-7-ylamine (5.0 g, 37.6 mmol) and 5% Rh/C (2.45 g) in ethanol (120 mL) and heat at 120° C. for 48 hours under ˜1000 psi H2. Cool the reaction and filter through hyflo. Remove the solvent in vacuo and purify the crude product with 5% 2 M NH3 in MeOH in CH2Cl2 to afford 1.43 g (28%) of the titled product. MS (m/z): 138 (M+1).

reactant | 1H-indazol-7-ylamine | 37.6 mmol, 5.0 g | N1N=CC2=CC=CC(=C12)N | C7H7N3
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Rh/C | 2.45 g | [Rh] | Rh
product | 4,5,6,7-Tetrahydro-1H-indazol-7-ylamine | 1.43 g, 28% | N1N=CC=2CCCC(C12)N | C7H11N3
